US03975384
5-Cyano-6-methyl-4piperazino-2-(1-oxido-thiomorpholino)-pyrimidine
2.7 gm (0.01 mol) of 4-chloro-5-cyano-6-methyl-2-(1-oxido-thiomorpholino)-pyrimidine (m.p. 251°-253°C, obtained from 5-cyano-2,4-dichloro-6-methyl-pyrimidine and thiomorpholine-1-oxide in acetone while cooling) were refluxed with a solution of 8.6 gm (0.1 mol) of piperazine in 80 ml of dioxane for about 30 minutes. The major part of the solvent was distilled off in vacuo, the residue was dissolved in about 80 ml of water, and a small quantity of 8 N sodium hydroxide was added, whereby the reaction product was first obtained as greasy, but soon solidifying precipitate. The product was suction-filtered off, washed with water and dried. Yield: 2.8 gm (87% of theory).

reactant | 4-chloro-5-cyano-6-methyl-2-(1-oxido-thiomorpholino)-pyrimidine | 0.01 mol, 2.7 gm | ClC1=NC(=NC(=C1C#N)C)N1CCS(CC1)=O | C10H11ClN4OS
reactant | piperazine | 0.1 mol, 8.6 gm | N1CCNCC1 | C4H10N2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 5-Cyano-6-methyl-4piperazino-2-(1-oxido-thiomorpholino)-pyrimidine | C(#N)C=1C(=NC(=NC1C)N1CCS(CC1)=O)N1CCNCC1 | C14H20N6OS
